US05637583
(3,4-dimethoxyphenyl)acetyl chloride is prepared according to the method described in Example 8 using 3,4-dimethoxyphenylacetic acid (2.85 g, 14.5 mmol) to give a brown oil which is dissolved in chloroform (10 mL). This solution is refluxed for 3 hours with a solution of (±)-trans-[2-(4-morpholinyl)]cyclohexanethiol (2.8 g, 14 mmol) in chloroform (10 mL) under nitrogen. The reaction mixture is partitioned between 1M sodium hydroxide solution (100 mL) and dichloromethane (80 mL). The organic layer is separated and the aqueous is washed with more dichloromethane (2×50 mL). The combined dichloromethane extracts are dried over sodium sulfate, and the solvent is removed to leave the crude free ester. This is purified by column chromatography and converted to the hydrochloride salt by treatment with HCl in ether. The product is recrystallised from hot ethyl acetate/methanol to yield the title compound.

reactant | 3,4-dimethoxyphenylacetic acid | 14.5 mmol, 2.85 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (3,4-dimethoxyphenyl)acetyl chloride | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
